US07265149B2
In analogy to the procedure described for example 9 c], [2-(2,2,2-trifluoro-ethyl)-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-yl]-acetic acid was reduced with a 1 M solution of BH3*THF in tetrahydrofuran to give 2-[2-(2,2,2-trifluoro-ethyl)-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-yl]-ethanol as colorless oil.

reactant | [2-(2,2,2-trifluoro-ethyl)-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-yl]-acetic acid | FC(CN1N=C(C=C1CC(=O)O)C1=CC=C(C=C1)OC(F)(F)F)(F)F | C14H10F6N2O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | 2-[2-(2,2,2-trifluoro-ethyl)-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-yl]-ethanol | FC(CN1N=C(C=C1CCO)C1=CC=C(C=C1)OC(F)(F)F)(F)F | C14H12F6N2O2
